US04780477
By using 5-acetamidoisatin and 2-diisopropylaminoethyl chloride hydrochloride, a method analogous to that described in Reference Example 7 was carried out to obtain 5-acetamido-1-(2-diisopropylaminoethyl)isatin having a melting point of 187°-190° C. (yield: 77.0%, recrystallizing solvent: ethyl acetate-hexane).

reactant | 5-acetamidoisatin | C(C)(=O)NC=1C=C2C(C(NC2=CC1)=O)=O | C10H8N2O3
reactant | 2-diisopropylaminoethyl chloride hydrochloride | Cl.C(C)(C)N(CCCl)C(C)C
product | 5-acetamido-1-(2-diisopropylaminoethyl)isatin | yield: 77.0% | C(C)(=O)NC=1C=C2C(C(N(C2=CC1)CCN(C(C)C)C(C)C)=O)=O | C18H25N3O3
